* e:\venu\esim_works\6t_sram\6t_sram.cir

.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
xsc1 out wl wbl gnd sky130_fd_pr__nfet_01v8_lvt 
xsc5 outblb out gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc3 gnd outblb out gnd sky130_fd_pr__nfet_01v8_lvt 
xsc6 wblb wl outblb gnd sky130_fd_pr__nfet_01v8_lvt 
xsc4 outblb out net-_sc2-pad1_ net-_sc2-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc2 net-_sc2-pad1_ outblb out net-_sc2-pad1_ sky130_fd_pr__pfet_01v8_lvt 
* u2  wl plot_v1
* u3  wblb plot_v1
* u1  wbl plot_v1
* s c m o d e
v3  wl gnd pulse(0 3.3 1n 1n 1n 1m 2m)
v2 net-_sc2-pad1_ gnd  dc 3.3
* u4  out plot_v1
* u5  outblb plot_v1
xsc7 xnor xnb out net-_sc2-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc8 outblb xn xnor net-_sc2-pad1_ sky130_fd_pr__pfet_01v8_lvt 
v1  xn gnd pulse(0 3.3v 1n 1n 1n 1.5m 3m)
v4  xnb gnd pulse(3.3v 0v 1n 1n 1n 1.5m 3m)
* u7  xnor plot_v1
* u8  xn plot_v1
* u6  xnb plot_v1
v6  wblb gnd pulse(0 3.3 1n 1n 1n 1m 2m)
v5  wbl gnd pulse(3.3 0 1n 1n 1n 1.5m 3m)
.tran 2e-03 50e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(wl)
plot v(wblb)
plot v(wbl)
plot v(out)
plot v(outblb)
plot v(xnor) v(xn) v(out)
plot v(xn)
plot v(xnb)
.endc
.end
